US08476455B2
3-Bromo-6-benzyloxy-benzothiophene
N-bromosuccinimide (15.70 g, 83.92 mmol) and p-toluenesulfonic add (2.70 g, 15.68 mmol) were added to a solution of 6-benzyloxy-benzothiophene (Zhengying C., CN 1370533 A, 21.2 g, 88.33 mmol) in 1,2-dichloroethane (120 ml). The mixture was maintained at 80° C. for 35 min, cooled in an ice bath, and the succinimide was removed by filtration. The solution was extracted with saturated sodium bicarbonate solution, dried over Na2SO4, filtered, and concentrated under vacuum to give an oil. Crystallisation from pentane afforded a white solid (21.60 g, 92%, mp: 68° C.).

reactant | N-bromosuccinimide | 83.92 mmol, 15.70 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 6-benzyloxy-benzothiophene | C(C1=CC=CC=C1)OC1=CC2=C(C=CS2)C=C1 | C15H12OS
solvent | 1,2-dichloroethane | 120 ml | ClCCCl | C2H4Cl2
product | 3-Bromo-6-benzyloxy-benzothiophene | 21.60 g, 92% | BrC1=CSC2=C1C=CC(=C2)OCC2=CC=CC=C2 | C15H11BrOS
